US06693099B2
(R)-4-Oxiranylmethoxy-quinoline (8)
Sodium hydride (60 weight %; 1.79 g; 44.8 mmol) is washed with hexanes (3×10 mL) under an argon blanket. DMF (17 mL) is then added at ambient temperature and the stirred slurry is cooled to 5° C. A solution of 4-hydroxyquinoline (5.00 g; 34.4 mmol) in DMF (65 mL) is added dropwise over 10 minutes. The resulting mixture is allowed to warm to ambient temperature over 1 hour affording a clear, reddish-brown solution. A solution of (R)-(−)-glycidyl tosylate (10.22 g; 44.8 mmol) in DMF (50 mL) is added dropwise over 10 minutes. The resulting mixture is stirred at ambient temperature for 20.5 hours, quenched by the addition of saturated aqueous ammonium chloride (25 mL), poured onto water (750 mL), and extracted with ether (3×375 mL). The combined ether layers are washed with saturated aqueous sodium bicarbonate (2×375 mL), then dried over MgSO4, filtered, and concentrated in vacuo. The residue is purified via silica gel chromatography with gradient elution (50%→60% acetone in hexanes) affording the desired product (1.11 g) as a tan solid. ESMS: MH+ 202.2.

reactant | Sodium hydride | 44.8 mmol, 1.79 g | [H-].[Na+]
reactant | 4-hydroxyquinoline | 34.4 mmol, 5.00 g | OC1=CC=NC2=CC=CC=C12 | C9H7NO
reactant | (R)-(−)-glycidyl tosylate | 44.8 mmol, 10.22 g | S(=O)(=O)(OC[C@H]1CO1)C1=CC=C(C)C=C1 | C10H12O4S
solvent | DMF | 65 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 17 mL | CN(C)C=O | C3H7NO
product | (R)-4-Oxiranylmethoxy-quinoline | 1.11 g | O1[C@H](C1)COC1=CC=NC2=CC=CC=C12 | C12H11NO2
